US04053527
207 parts of 4,6-dichloro-2-nitro-aniline are introduced into 400 parts of ethanol and 900 parts of water, and 400 parts of concentrated sulfuric acid (98 percent strength by weight) are then added to the mixture. A solution of 105 parts of NaNO2 in 175 parts of water is run in at 80° C., as described in Example 1. The mixture is cooled and the product is filtered off. 182 parts (95% of theory) of 3,5-dichloro-nitro-benzene, of melting point 56°-59° C., are obtained.

reactant | 4,6-dichloro-2-nitro-aniline | ClC1=CC(=C(N)C(=C1)Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | ethanol | C(C)O | C2H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | NaNO2 | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 3,5-dichloro-nitro-benzene | 95% | ClC=1C=C(C=C(C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
